US06838489B2
A 500 mL three-neck round bottom flask, containing a Teflon-coated stirbar and fitted with an internal thermometer and a short path distillation head, was charged with bis-(2,4,6-trimethylphenylamino)ethane dihydrochloride (20.18 g, 54.63 mmol) and triethylorthoformate (200 mL). Acetic acid (98%, ca. 4 drops from a Pasteur pipette) was added, and the reaction vessel was placed in a 130° C. oil bath. As the beige slurry was heated and stirred, a water white liquid began to distill away from the reaction mixture which itself had taken on a pink tint. Heating was continued until distillation ceased, about 4 hours. The final temperature of the reaction mixture was 120° C. After the reaction mixture had cooled to ambient temperature, the pink color had discharged. The solid product was isolated by filtration and washed with hexanes (3×100 mL). Vacuum drying afforded 18.21 g (97%) of 1,3-Bis-(2,4,6-trimethylphenyl)imidazolinium chloride as a white, crystalline powder.

reactant | bis-(2,4,6-trimethylphenylamino)ethane dihydrochloride | 54.63 mmol, 20.18 g | Cl.Cl.CC1=C(C(=CC(=C1)C)C)NC(C)NC1=C(C=C(C=C1C)C)C
reactant | triethylorthoformate | 200 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1,3-Bis-(2,4,6-trimethylphenyl)imidazolinium chloride | 18.21 g, 97% | [Cl-].CC1=C(C(=CC(=C1)C)C)[NH+]1CN(CC1)C1=C(C=C(C=C1C)C)C | InChI=1S/C21H28N2.ClH/c1-14-9-16(3)20(17(4)10-14)22-7-8-23(13-22)21-18(5)11-15(2)12-19(21)6;/h9-12H,7-8,13H2,1-6H3;1H
